US07851500B2
N-(1-(4-Fluorophenylsulfonyl)azetidin-3-yl)-3-(3-(pyridin-2-ylamino)-1H-pyrazol-5-ylthio)benzamide
3-(3-(Pyridine-2-ylamino)-1H-pyrazol-5-ylthio)benzoic acid (0.050 g, 0.160 mmol) and tert-butyl 1-(4-fluoro-phenylsulfonyl)azetidin-3-ylcarbamate (0.063 g, 0.19 mmol) were treated as described in Example 3, except that the mixture was purified on Prep HPLC (MeCN/H2O/0.1% TFA). This afforded the title material (0.031 g, 30%, trifluoroacetic acid salt) as a solid. 1H NMR 400 MHz DMSO-d6 δ (ppm): 3.72 (2H, dd, J=8.46, 6.44 Hz), 4.00 (2 H, t, J=8.08 Hz), 4.35-4.52 (1 H, m), 6.43 (1 H, s), 6.91-7.03 (1 H, m), 7.18 (1 H, d, J=8.08 Hz), 7.34-7.40 (1 H, m), 7.44 (1 H, t, J=7.71 Hz), 7.50-7.59 (2 H, m), 7.60-7.69 (2 H, m), 7.82-7.98 (3 H, m), 8.20 (1 H, d, J=4.55 Hz), 8.96 (1 H, d, J=6.06 Hz), 10.62 (1 H, br.s). HPLC ret. time (Condition B): 4.125 min.; 91%. LCMS (+ESI, M+H+) m/z 525. HRMS: calc. 525.1179, found 525.1191.

reactant | 3-(3-(Pyridine-2-ylamino)-1H-pyrazol-5-ylthio)benzoic acid | 0.160 mmol, 0.050 g | N1=C(C=CC=C1)NC1=NNC(=C1)SC=1C=C(C(=O)O)C=CC1 | C15H12N4O2S
reactant | tert-butyl 1-(4-fluoro-phenylsulfonyl)azetidin-3-ylcarbamate | 0.19 mmol, 0.063 g | FC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)NC(OC(C)(C)C)=O | C14H19FN2O4S
product | N-(1-(4-Fluorophenylsulfonyl)azetidin-3-yl)-3-(3-(pyridin-2-ylamino)-1H-pyrazol-5-ylthio)benzamide | 0.031 g, 30% | FC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)NC(C1=CC(=CC=C1)SC1=CC(=NN1)NC1=NC=CC=C1)=O | C24H21FN6O3S2
